US04230635
Add 2.50 g (22 mmole) of methanesulfonyl chloride dropwise to 4.57 g (15 mmole) of methyl 5-(hexafluoro-2-hydroxy-2-propyl)anthranilate in 25 ml of pyridine and allow to stand overnight. Pour the reaction into H2O and extract with Et2O. Wash the Et2O with 1N HCl and extract with 1N NaOH. Acidify the NaOH and extract with Et2O. Dry, concentrate and recrystallize from Et2O-hexane to obtain 4'-(hexafluoro-2-hydroxy-2-propyl)-2'-(methoxycarbonyl)methanesulfonanilide; m.p. 147°-148° C.

reactant | methanesulfonyl chloride | 22 mmole, 2.50 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 5-(hexafluoro-2-hydroxy-2-propyl)anthranilate | 15 mmole, 4.57 g | FC(C(C(F)(F)F)(O)C1=CC=C(C(C(=O)OC)=C1)N)(F)F | C11H9F6NO3
reactant | H2O | O | H2O
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 4'-(hexafluoro-2-hydroxy-2-propyl)-2'-(methoxycarbonyl)methanesulfonanilide | FC(C(C(F)(F)F)(O)C1=CC(=C(NS(=O)(=O)C)C=C1)C(=O)OC)(F)F | C12H11F6NO5S
